US04624953
34.0 g (0.15 mole) of 1-carbomethoxy-4-benzylpiperazine dissolved in 300 ml of ethanol was treated with hydrogen over a palladium catalyst at 40 psi and room-temperature for 24 hours. The catalyst was removed by filtration and the solvent removed under reduced pressure. The residue was distilled, b.p. 70°-75° C. at 1.5 mmHg to give 16.0 g of 1-carbomethoxypiperazine.

reactant | 1-carbomethoxy-4-benzylpiperazine | 0.15 mole, 34.0 g | C(=O)(OC)N1CCN(CC1)CC1=CC=CC=C1 | C13H18N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-carbomethoxypiperazine | 16.0 g | C(=O)(OC)N1CCNCC1 | C6H12N2O2
